US05098707
In operations carried out in a manner similar to that described in Example I, 1-(3-amino-3-oxopropyl)imidazol-2-thiol was reacted first with chloroacetone in the presence of triethylamine to obtain 1-(3-amino-3-oxopropyl)-3-methyl-2[(2-oxopropyl)thio]-1H-imidazole, which then was reacted with methyl trifluoromethanesulfonate to obtain 1-(3-amino-3-oxopropyl)-3-methyl-2[(2-oxopropyl)thio]-1H-imidazolium trifluoromethanesulfonate which in turn was passed through a Dowex 1(Cl-) ion exchange column to obtain 1-(3-amino-3-oxopropyl)-3-methyl-2[(2-oxopropyl)thio]-1H-imidazolium chloride, m.p. 124°-125° C.

reactant | 1-(3-amino-3-oxopropyl)imidazol-2-thiol | NC(CCN1C(=NC=C1)S)=O | C6H9N3OS
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(3-amino-3-oxopropyl)-3-methyl-2[(2-oxopropyl)thio]-1H-imidazole | NC(CCN1C(N(C=C1)C)SCC(C)=O)=O | C10H17N3O2S
